Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Aspirin
 
Attending: ___
 
Chief Complaint:
Altered mental status
 
Major Surgical or Invasive Procedure:
PEG tube placement 
Spinal Tap
Intubation
 
History of Present Illness:
HPI: ___ yo man with multiple myeloma in who presents from rehab 
with altered mental status over past 7 days. History taken from 
daughter who sees him daily at rehab. She states he is alert and 
oriented at baseline but over the past ___ days has had poor 
oral intake and has been less verbal than usual. She states he 
usually knows his name and recognizes her but she admits he is 
sometimes 'confused' and this is not a new process. He had 
denied any cough, pain, dysuria, diarrhea, chest pain, dyspnea 
and the rehab facility did not report any of these symptoms as 
well.
.
In the ER urinalysis with many WBC's and bacteria, CXR clear on 
my read, CT head with no acute process. Patient was given 
vancomycin and zosyn in the ER. Vitals stable in ER, T 98 but 
rose to 100.8 later on. Received 2.5 liters saline. Foley 
catheter placed in ER.
 
Past Medical History:
1. Multiple myeloma: Diagnosed ___. Initial presentation 
sinus congestion --> found to have rapidly growing mass in left 
paranasal sinus --> ENT endoscopic biopsy ___ --> 
plasmocytoma --> BMBx ___ --> myeloma. No lytic lesions on 
skeletal survey. Chemotherapy with Velcade and dexamethasone 
started ___.  
2. Type 2 DM: Last A1c 8.0% ___. In setting of starting 
steroids, recent ___ in the 300-400s. Has been on metformin and 
glyburide. 
3. Hypertension  
4. Hypercholesterolemia: On Atorvastatin. Last cholesterol 147 
___  
5. Essential tremor  
6. Hypothyroidism: History of Grave's disease. Was rx'd with 
radioactive iodine.   
7. Hyperparathyroidism: Borderline hypercalcemia. Increased 
parathyroid uptake c/w adenoma seen on parathyroid scan in 
___.  
8. Lactose intolerance per OMR 
 
Social History:
___
Family History:
Non-contributory.
 
Physical Exam:
PE: 98.9, 131/72, 77, 20, 99% 3L, fsg 220
Gen- nad, aox1 (knew name), nad, ___ and follows commands 
but sluggish
heent- jvp flat, dry MM
heart- rrr, no m/r/g
lungs- ctab
abdomen- soft, nt/nd, bs+, no hsm
ext- no edema
neuro- moves all 4 ext freely, unable to cooperate with full 
exam, reflexes 2+ upper and lower ext, no clonus, perla, cn ___ 
intact
 
Pertinent Results:
___ 03:30PM   GLUCOSE-251* UREA N-28* CREAT-1.9* 
SODIUM-149* POTASSIUM-4.4 CHLORIDE-111* TOTAL CO2-24 ANION 
GAP-18
___ 03:30PM   CALCIUM-10.0 PHOSPHATE-3.5 MAGNESIUM-2.2
___ 03:30PM   WBC-6.8 RBC-3.60* HGB-10.4* HCT-32.7* MCV-91 
MCH-28.9 MCHC-31.8 RDW-16.7*
___ 03:30PM   NEUTS-57 BANDS-21* LYMPHS-6* MONOS-9 EOS-1 
BASOS-0 ATYPS-4* METAS-2* MYELOS-0 NUC RBCS-2*
___ 03:30PM   ___ PTT-33.1 ___
.
Micro:
___ Cdiff positive
___ Blood culture: no growth - final
___ Blood culture- no growth final
___ Urine culture no growth
.
Studies:
-___ CT chest/abd/pevlis: 1. Bilateral moderate-sized 
pleural effusions, with bibasilar airspace opacifications, 
likely atelectasis; however, superinfection or aspiration cannot 
be excluded. 
2. Cardiomegaly. 3. Bilateral hypodensities in the kidneys, not 
characterized on the current scan. These could be further 
evaluated with ultrasound. Nonspecific fat stranding around the 
kidneys, correlate with urinary analysis. 4. Anasarca. 5. 
Suggestion of wall thickening at the rectum and sigmoid, with no 
significant fat stranding, this finding could suggest colitis in 
the appropriate clinical setting. Correlate with clinical 
symptoms. 6. Compression fracture of vertebral body of T8 of 
indeterminate age, correlate with point tenderness. Loss of 
height of vertebral body of L5 of indeterminate age. 7. 
Bilateral inguinal hernia, with fluid on the right. 
-___ EEG: These findings suggest a moderate to severe 
encephalopathy. 
Medications, metabolic disturbances, and infection are among the 
most 
common causes. There were no epileptiform features or 
electrographic 
seizures. This telemetry captured no pushbutton activations. 
-___ Renal US: IMPRESSION: 1. No hydronephrosis of left or 
right kidney. 2. A few small cysts are seen in both kidneys. 3. 
A small amount of free fluid is seen in the upper abdomen. 4. 
Bilateral pleural effusions, 
-___ MRI head: 1. No findings to explain patient's symptoms. 
Chronic small vessel ischemic changes and cerebral atrophy. 
2. No evidence of acute infarct. 3. Left cerebellopontine angle 
isointense lesion measuring less than 1 cm, may represent 
extension of the left cerebellar flocculus or soft tissue 
lesion. Dedicated skull base pre-and post-contrast MR imaging is 
recommended on a nonurgent basis for further evaluation. This 
lesion is stable when compared to ___. 
___ Echo: The left atrium is mildly dilated. There is mild 
symmetric left ventricular hypertrophy. The left ventricular 
cavity size is normal. Left ventricular systolic function is 
hyperdynamic (EF 70-80%). There is no ventricular septal defect. 
Right ventricular chamber size and free wall motion are normal. 
There are three aortic valve leaflets. The aortic valve leaflets 
are moderately thickened. There is a minimally increased 
gradient consistent with minimal aortic valve stenosis. Mild 
(1+) aortic regurgitation is seen. The mitral valve leaflets are 
mildly thickened. There is no mitral valve prolapse. Trivial 
mitral regurgitation is seen. The left ventricular inflow 
pattern suggests impaired relaxation. There is moderate 
pulmonary artery systolic hypertension. There is a small 
posterior pericardial effusion. There are no echocardiographic 
signs of tamponade.
.
___:
IMPRESSION:
1. Large bilateral pleural effusions, worse than before with 
associated
compressive atelectasis, diffuse soft tissue anasarca, and trace 
perihepatic
free fluid, may reflect third spacing.
2. Multiple bilateral renal cysts, largest in the superior pole 
of the right
kidney, incompletely characterized in the non-contrast setting.
3. T11 and T8 compression fractures may relate to underlying 
multiple
myeloma, unchanged since the recent prior.

 
Brief Hospital Course:
This was a ___ gentleman with a past medical history of 
multiple myeloma, diabetes mellitus, hypertension, and 
hypothyroidism who presented with altered mental status and 
subsequently developed A. fib w/ RVR, ARF, thrombocytopenia, 
anemia, C.diff, and MRSA in his sputum.  He passed away on ___ 
due to complications from these multiple medical conditions.
.  
#CHANGE IN MENTAL STATUS:  Unclear etiology for altered mental 
status but possibilities include infection or neurologic 
catastrophe such as hypoxic brain injury or multiple old 
strokes.  MRI, LP, and EEG were all negative for causative 
pathology.  Neurology was consulted and had no additional 
work-up or treatment to recommend. The patient was started on 
carbidopa/levidopa for ridigity and presumed ___.  
Patient was kept comfortable and an effort was made to verbally 
orient him at the bedside.  He was able to respond to his name 
___ moving his eyes) but remained non-verbal toward the end of 
hospital admission.
.
#ATRIAL FIBRILLATION WITH RVR: The patient developed A. fib with 
RVR and was transferred to the FICU for initation of rate 
control. He was started on metoprolol, which was later changed 
to diltiazem.  He acheived good rate control on diltiazem. 
.
#PEA ARREST:  Patient went into cardiac (PEA) arrest on ___ and 
was resuscitated at the bedside.  He was intubated and 
transferred to the ICU.  He was stabilized and extubated without 
complication.  Diltiazem was restarted.  Cardiac enzymes were 
negative and echo showed mildly enlarged left atrium with 
hyperdynamic LV function.
.
#ACUTE RENAL FAILURE: FeNa was 4.1%. Likely secondary to ATN 
from hypervolemia or worsening multiple myeloma. His renal 
function improved with multiple myeloma treatment. The patient 
has a baseline Cr 0.9-1.1. Renal was following the patient 
during this admission and had no further recommendations. The 
patient's worst Cr was 2.7 and improved to 1.5.  Bactrim was 
discontinued to account for false elevation of creatinine. 
.  
#ELECTROLYTE ABNORMALITIES:  Patient's electrolyes were closely 
monitored throughout admission and repleted as necessary.

#ANEMIA/THROMBOCYTOPENIA:  Thought to be due to multiple myeloma 
and other chronic disease states.  Mr. ___ was given PRBCs 
to maintain a Hct above 21.  HIT antibodies were negative.  
.  
#MULTIPLE MYELOMA: The patient was treated with 3 cycles of high 
dose Dexamethasone. His Creatinine, thrombocytopenia, anemia, 
and other markers of multiple myeloma all improved after 
treatment. 
.
#DIABETES: The patient was treated with insulin sliding scale 
and glargine. His blood sugars were difficult to control while 
he was on dexamethasone. Nutrition was following for appropriate 
tube feed recommendations.
.
#INFECTION:  The patient developed MRSA in his sputum. He was 
treated with 8 days of IV vancomycin. He also developed C. diff 
after being treated for a UTI. He was treated with 14 days of IV 
flagyl and po vancomycin. His diarrhea was rechecked ___ 
and it was negative for C.diff.  On ___ a CT of his torso 
demonstrated evidence of pneumonia.  As per ID recommendations, 
Mr. ___ was started on a 7 day course of cefepime and 
vancomycin.
.  
#HYPOTHYROIDISM:  Levothyroxine.
.
#NUTRITION:  PEG with tube feeds.  Nutrition service followed 
patient closely.
.
#SECRETIONS:  Toward the end of his life, Mr. ___ had 
difficulty clearing his secretions; most likely due to weak 
musculature, poor cough effort, and central nervous system 
issues.  Respiratory therapy was called to help with suctioning.
.
#GOALS OF CARE:  Multiple discussions were held with patient's 
family and his healthcare team.  His family was informed of his 
dire prognosis, and the decision was made to make patient 
DNR/DNI and not to pursue further cancer treatment.  Patient's 
family and healthcare team were intent on providing supportive 
care and making the patient comfortable.
 
Medications on Admission:
Novolog sliding scale
milk of magnesia prn
tylenol prn
compazine prn
flexeril prn
oxycodone 10mg po q4h prn
flomax qhs
primidone 50mg po qhs
remeron 15mg po qhs
dulcolax prn
mylanta prn
protonix 40mg po daily
norvasc 10mg po daily
mvi daily
moexipril 30mg po bid
colace 100mg bid
oxycontin 10mg po bid
valtrex ___ po qhs
levothyroxine 112mcg daily
propranolol er 240mg po daily
miralax daily
epogen 40,000 untis sq weekly
natural tears
 
Discharge Medications:
Patient expired.
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Primary: Delerium, UTI
Secondary: Multiple myeloma, demenia

 
Discharge Condition:
Patient expired.
 
Discharge Instructions:
Patient expired.
 
Followup Instructions:
___